US05981533
5-Amino-4-cyano-3-(4-ethoxy-phenylamino)-pyrazole
A mixture of 21.5 g (82.9 mmol) of 2-cyano-3-(4-ethoxy-phenylamino)-3-methylmercapto-acrylonitrile, 4.31 ml (87 mmol) of hydrazine hydrate and 110 ml of methanol is heated under reflux for 7 hours and then concentrated by evaporation in vacuo. Recrystallization of the residue from ethyl acetate/hexane yields the title compound; m.p. 166-167° C.

reactant | 2-cyano-3-(4-ethoxy-phenylamino)-3-methylmercapto-acrylonitrile | 82.9 mmol, 21.5 g | C(#N)C(C#N)=C(SC)NC1=CC=C(C=C1)OCC | C13H13N3OS
reactant | hydrazine hydrate | 87 mmol, 4.31 ml | O.NN
solvent | methanol | 110 ml | CO | CH4O
product | 5-Amino-4-cyano-3-(4-ethoxy-phenylamino)-pyrazole | NC1=C(C(=NN1)NC1=CC=C(C=C1)OCC)C#N | C12H13N5O
